US07553846B2
A mixture of methyl 2-(quinuclidin-4-yl)benzoxazole-4-carboxylate (233 mg, 0.81 mmol), lithium hydroxide monohydrate (51 mg, 1.22 mmol) and THF/water (2:1, 15 mL) was stirred at room temperature for 6 h. The reaction mixture was concentrated, and washed with brine (10 mL), the precipitate which formed was filtered, washed with hexanes and dried to afford 2-(quinuclidin-4-yl)benzoxazole-4-carboxylic acid (240 mg, 108%) as a brown solid: 1H NMR (500 MHz, DMSO-d6) δ 7.80 (d, J=8.0 Hz, 1H), 7.67 (d, J=8.0 Hz, 1H), 7.31 (d, J=8.0 Hz, 1H), 2.83-2.81 (m, 6H), 1.89-1.84 (m, 6H); MS (ESI+) m/z 273 (M+H).

reactant | methyl 2-(quinuclidin-4-yl)benzoxazole-4-carboxylate | 0.81 mmol, 233 mg | N12CCC(CC1)(CC2)C=2OC=1C(N2)=C(C=CC1)C(=O)OC | C16H18N2O3
reactant | lithium hydroxide monohydrate | 1.22 mmol, 51 mg | O.[OH-].[Li+]
solvent | THF water | 15 mL | C1CCOC1.O
product | 2-(quinuclidin-4-yl)benzoxazole-4-carboxylic acid | 240 mg, 108% | N12CCC(CC1)(CC2)C=2OC=1C(N2)=C(C=CC1)C(=O)O | C15H16N2O3
